US04933355
Ethyl 2-[3-(4-fluoro-3-nitrophenyl)ureido]thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 5 g of ethyl 2-aminothiazol-4-ylglyoxylate. 5.5 g of 4-fluoro-3-nitrophenyl isocyanate and 30 ml of dimethylformamide. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 5 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | 4-fluoro-3-nitrophenyl isocyanate | 5.5 g | FC1=C(C=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3FN2O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[3-(4-fluoro-3-nitrophenyl)ureido]thiazol-4-ylglyoxylate | FC1=C(C=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O)[N+](=O)[O-] | C14H11FN4O6S
